US04522947
2-(5-tetrazolyl)-5-chloro-1,3-oxazolo-[4,5-h]quinoline
A mixture of 5 g of 2-cyano-5-chloro-1,3-oxazolo-[4,5-h]quinoline and 1.0 g of sodium azide and 2 g of ammonium chloride in 100 ml of DMF are heated for 3 hours at 120° C. The reaction mixture is poured into water acidified with dilute HCl, and the product is filtered and recrystallized.

reactant | 2-cyano-5-chloro-1,3-oxazolo-[4,5-h]quinoline | 5 g | C(#N)C=1OC2=C(C=C(C=3C=CC=NC23)Cl)N1 | C11H4ClN3O
reactant | sodium azide | 1.0 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2 g | [Cl-].[NH4+]
reactant | HCl | Cl | ClH
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(5-tetrazolyl)-5-chloro-1,3-oxazolo-[4,5-h]quinoline | N1N=NN=C1C=1OC2=C(C=C(C=3C=CC=NC23)Cl)N1 | C11H5ClN6O
